US05234936
The synthesis of 4'-[[[5,6,7,8-tetrahydro-2-(trifluoromethyl)-4-quinazolinyl]amino]methyl][1,1'-biphenyl]-2-carboxylic acid
To 10 mL of n-butanol were added 0.526 g of 4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline, 0.408 g of 4' aminomethyl-(1,1'-biphenyl)-2-carboxylic acid and 1.1 g of sodium acetate. The resulting mixture was refluxed for 3 days, cooled to room temperature and all solvents were removed by evaporation. The residue was taken up in ethyl acetate and washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated to yield an off-white solid which was purified by silica chromatography to yield the desired product (0.39 g, 59%). The compound was characterized as its sodium salt: 1H NMR (DMSO-d6, 400 MHz) δ 7.88 (t, J=6.0 Hz, 1H), 7.39 (m, 2H), 7.28 (m, 3H), 7.17 (m, 3H), 4.60 (d, J=5.9 Hz, 2H), 2.61 (m, 2H), 2.38 (m, 2H), 1.74 (m, 4H); negative FAB-MS m/e 448(M-H), 426(M-Na). Anal. calcd for C23H19F3N3NaO2.1.0H2O: C, 59.10; H, 4.53; N, 8.99. Found: C, 59.03; H, 4.48; N, 9.09.

reactant | 4-chloro-5,6,7,8-tetrahydro-2-trifluoromethylquinazoline | 0.526 g | ClC1=NC(=NC=2CCCCC12)C(F)(F)F | C9H8ClF3N2
reactant | 4' aminomethyl-(1,1'-biphenyl)-2-carboxylic acid | 0.408 g | NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C14H13NO2
reactant | sodium acetate | 1.1 g | C(C)(=O)[O-].[Na+]
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | 4'-[[[5,6,7,8-tetrahydro-2-(trifluoromethyl)-4-quinazolinyl]amino]methyl][1,1'-biphenyl]-2-carboxylic acid | 0.39 g, 59% | FC(C1=NC=2CCCCC2C(=N1)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)(F)F | C23H20F3N3O2
